US08557872B2
A mixture of N-methoxy-N-methyl-4-fluoro-2-nitro-benzamide (1.15 g, 5.04 mmol) and 5% palladium charcoal (190 mg) in EtOH (30 mL) was shaken overnight under hydrogen atmosphere (3 atm). The mixture was filtered and concentrated under reduced pressure to give N-methoxy-N-methyl-2-amino-4-fluoro-benzamide (0.9 g, 90%).

reactant | N-methoxy-N-methyl-4-fluoro-2-nitro-benzamide | 5.04 mmol, 1.15 g | CON(C(C1=C(C=C(C=C1)F)[N+](=O)[O-])=O)C | C9H9FN2O4
solvent | EtOH | 30 mL | CCO | C2H6O
catalyst | palladium charcoal | 190 mg | [Pd] | Pd
product | N-methoxy-N-methyl-2-amino-4-fluoro-benzamide | 0.9 g, 90% | CON(C(C1=C(C=C(C=C1)F)N)=O)C | C9H11FN2O2
